US08629160B2
2-Chloro-1-phenylethanone (29.3 mg, 0.12 mmol) was added to a solution of (R)-quinuclidin-3-yl 2-(6-(benzyloxy)pyridin-3-yl)-2-(phenylamino)acetate (C53) (84 mg, 0.19 mmol, mixture of diastereomers) in EtOAc (4 ml). The reaction was stirred at room temperature overnight, and then a catalytic amount of 10% Pd/C (about 10 mg) and 37% HCl (0.50 ml) were added, and the reaction was hydrogenated at 20 psi for 2 hours. Pd/C is removed by filtration, and the clear solution was evaporated to dryness. The crude was purified by preparative HPLC to obtain (3R)-3-(2-(6-hydroxypyridin-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (20.3 mg, 18% yield).

reactant | 2-Chloro-1-phenylethanone | 0.12 mmol, 29.3 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | (R)-quinuclidin-3-yl 2-(6-(benzyloxy)pyridin-3-yl)-2-(phenylamino)acetate | 0.19 mmol, 84 mg | C(C1=CC=CC=C1)OC1=CC=C(C=N1)C(C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C27H29N3O3
reactant | HCl | 0.50 ml | Cl | ClH
solvent | EtOAc | 4 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | about 10 mg | [Pd] | Pd
product | (3R)-3-(2-(6-hydroxypyridin-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 20.3 mg, 18% yield | [Cl-].OC1=CC=C(C=N1)C(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)NC2=CC=CC=C2 | InChI=1S/C28H29N3O4.ClH/c32-24(20-7-3-1-4-8-20)18-31-15-13-21(14-16-31)25(19-31)35-28(34)27(22-11-12-26(33)29-17-22)30-23-9-5-2-6-10-23;/h1-12,17,21,25,27,30H,13-16,18-19H2;1H/t21?,25-,27?,31?;/m0./s1
